US05166198
a) 4-Chloro-6-[[3-(diethoxyphosphoryl)propoxy]amino]-5-formamidopyrimidine
A mixture of 4,6-dichloro-5-formamidopyrimidine (2.82 g, 14.6 mmol), diethyl 3-(aminooxy)propylphosphonate (3.1 g, 14.6 mmol) and triethylamine (3.1 ml, 22.3 mmol) in dioxan (40 ml) was heated at 100° C. for 4 hours. The solution was cooled to ambient temperature, filtered, and the filtrate evaporated to give a yellow oil. The oil was purified by column chromatography on silica gel (eluting with chloroform: methanol 97:3) to give the title compound as a yellow oil (4.4 g, 74%). 1H NMR: δH (CDCl3) 1.3 (6H, t, J=7Hz, (OCH2CH3)2), 1.6-2.5 (4H, m, CH2CH2P), 3.9-4.5 (6H, m, N--OCH2, (OCH2CH3)2), 7.3-9.3 (3H, broad, --NHCHO, --NH--OCH2).

reactant | 4,6-dichloro-5-formamidopyrimidine | 14.6 mmol, 2.82 g | ClC1=NC=NC(=C1NC=O)Cl | C5H3Cl2N3O
reactant | diethyl 3-(aminooxy)propylphosphonate | 14.6 mmol, 3.1 g | NOCCCP(OCC)(OCC)=O | C7H18NO4P
reactant | triethylamine | 22.3 mmol, 3.1 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-6-[[3-(diethoxyphosphoryl)propoxy]amino]-5-formamidopyrimidine | 4.4 g, 74% | ClC1=NC=NC(=C1NC=O)NOCCCP(=O)(OCC)OCC | C12H20ClN4O5P
